datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C(=C/c1cc[n:10]cc1)\c1ccccc1.Cc1ccc(C2C[NH+:21]2[H:20])cc1>>C(=C/c1cc[n+:10]([H:20])cc1)\c1ccccc1.Cc1ccc(C2C[NH:21]2)cc1 10=20;20,21=21",
"O=C([O-])[C@H]1CCC[C@@H](C(=O)[O-])[NH:10]1.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>O=C([O-])[C@H]1CCC[C@@H](C(=O)[O-])[NH+:10]1[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CCC[N:10](CCCl)CCCl.CO[n+]1ccc([O:21][H:20])cc1>>CCC[N+:10](CCCl)(CCCl)[H:20].CO[n+]1ccc([O-:21])cc1 10=20;20,21=21",
"CC(C)(C)[O-:10].C[C:21](C1=CC=C([N+](=O)[O-])C=C1)([N+](=O)[O-])[H:20]>>CC(C)(C)[O:10][H:20].C[C-:21](C1=CC=C([N+](=O)[O-])C=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC[N+:21](CC)(CCC(OC(=O)c1ccccc1)c1ccccc1)[H:20].O=C(/C=C/c1ccccc1)C(=O)[O-:10]>>CC[N:21](CC)CCC(OC(=O)c1ccccc1)c1ccccc1.O=C(/C=C/c1ccccc1)C(=O)[O:10][H:20] 10=20;20,21=21",
"OCCNCC[NH2+:21][H:20].Oc1ccc(Cl)c2ccc[n:10]c12>>OCCNCC[NH2:21].Oc1ccc(Cl)c2ccc[n+:10]([H:20])c12 10=20;20,21=21",
"Cc1cc([O:21][H:20])c(C(C)C)cc1Cl.OC[O-:10]>>Cc1cc([O-:21])c(C(C)C)cc1Cl.OC[O:10][H:20] 10=20;20,21=21",
"CC(=O)/C(C)=N/[O:21][H:20].CCCC[NH2+]CC[NH2:10]>>CC(=O)/C(C)=N/[O-:21].CCCC[NH2+]CC[NH2+:10][H:20] 10=20;20,21=21",
"C[NH+](C)Cc1cc(F)cc(C[NH+](C)C)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+](C)Cc1cc(F)cc(C[NH+](C)C)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=Cc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=Cc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC1(C)CCC(C2CCC(C)(C)[NH:10]2)[NH2+]1.Nc1ccc(-c2ccc(/N=C/c3ccc([O:21][H:20])cc3)cc2)cc1>>CC1(C)CCC(C2CCC(C)(C)[NH+:10]2[H:20])[NH2+]1.Nc1ccc(-c2ccc(/N=C/c3ccc([O-:21])cc3)cc2)cc1 10=20;20,21=21",
"O=[N+]([O-])[N-:10]c1nc[nH]n1.c1ccc(/N=N/c2ccc([NH2+:21][H:20])cc2)cc1>>O=[N+]([O-])[N:10](c1nc[nH]n1)[H:20].c1ccc(/N=N/c2ccc([NH2:21])cc2)cc1 10=20;20,21=21",
"CC(C)(S)C[NH2:10].Cc1cc(/N=N/c2nc3ccccc3s2)c2cccnc2c1[O:21][H:20]>>CC(C)(S)C[NH2+:10][H:20].Cc1cc(/N=N/c2nc3ccccc3s2)c2cccnc2c1[O-:21] 10=20;20,21=21",
"COc1ccc(C[NH2:10])cc1OC.Cc1nnc(C)n1[O:21][H:20]>>COc1ccc(C[NH2+:10][H:20])cc1OC.Cc1nnc(C)n1[O-:21] 10=20;20,21=21",
"C(=C/c1n[n:10]nn1-c1ccccc1)\c1ccccc1.COc1cc[n+:21]([H:20])cn1>>C(=C/c1n[n+:10]([H:20])nn1-c1ccccc1)\c1ccccc1.COc1cc[n:21]cn1 10=20;20,21=21",
"COC(=O)c1ccc2c(ccc[n+:21]2[H:20])c1.O=C(c1cc(Cl)cc([N+](=O)[O-])c1)[O-:10]>>COC(=O)c1ccc2c(ccc[n:21]2)c1.O=C(c1cc(Cl)cc([N+](=O)[O-])c1)[O:10][H:20] 10=20;20,21=21",
"COc1ccccc1-c1ccccc1[O:21][H:20].C[NH:10]CCC#N>>COc1ccccc1-c1ccccc1[O-:21].C[NH+:10](CCC#N)[H:20] 10=20;20,21=21",
"COc1ccc(C(=O)[O:21][H:20])c(C)c1.O=[N+]([O-])/C=C/c1ccc([O-:10])cc1>>COc1ccc(C(=O)[O-:21])c(C)c1.O=[N+]([O-])/C=C/c1ccc([O:10][H:20])cc1 10=20;20,21=21",
"O=C([O-])C(NCC[NH:10]C(C(=O)[O-])c1ccccc1[O-])c1ccccc1[O-].O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])C(NCC[NH+:10](C(C(=O)[O-])c1ccccc1[O-])[H:20])c1ccccc1[O-].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C=CC(C)(C)[N:10](C)C(C)(C)C.OC[C@H]1O[C@H]2[C@H](OC(=S)[N:21]2[H:20])[C@H]1O>>C=CC(C)(C)[N+:10](C)(C(C)(C)C)[H:20].OC[C@H]1O[C@H]2[C@H](OC(=S)[N-:21]2)[C@H]1O 10=20;20,21=21",
"COc1cccc(C=O)c1[O:21][H:20].Cc1cc(-c2ccccc2)n[n+](C)c1NCC[N:10]1CCOCC1>>COc1cccc(C=O)c1[O-:21].Cc1cc(-c2ccccc2)n[n+](C)c1NCC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"C[n+]1ccc(C(=O)[O:21][H:20])cc1.Cc1cc(-c2cccc[nH+]2)[n:10]n1C>>C[n+]1ccc(C(=O)[O-:21])cc1.Cc1cc(-c2cccc[nH+]2)[n+:10]([H:20])n1C 10=20;20,21=21",
"C(=N/[O-:10])\c1cnns1.Cc1cccc(C)c1/C(c1ccccc1)=[NH+:21]/[H:20]>>C(=N/[O:10][H:20])\c1cnns1.Cc1cccc(C)c1C(c1ccccc1)=[NH:21] 10=20;20,21=21",
"CCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:21][H:20].O=[N+]([O-])c1ccccc1[Se][O-:10]>>CCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:21].O=[N+]([O-])c1ccccc1[Se][O:10][H:20] 10=20;20,21=21",
"CNc1nc(C)[n:10]c2[nH]ncc12.[S-]c1nc2nccnc2c[n+:21]1[H:20]>>CNc1nc(C)[n+:10]([H:20])c2[nH]ncc12.[S-]c1nc2nccnc2c[n:21]1 10=20;20,21=21",
"Fc1ccc2[nH]c[n+:21]([H:20])c2c1.O=[N+]([O-])c1cccc2c1c(NCCCO)c1ccccc1[n:10]2>>Fc1ccc2[nH]c[n:21]c2c1.O=[N+]([O-])c1cccc2c1c(NCCCO)c1ccccc1[n+:10]2[H:20] 10=20;20,21=21",
"CCCC(=O)OC(C)C[N:10](C)C.Cc1ccc(-c2c[n+:21]([H:20])c(-c3ccc(C)cc3)o2)cc1>>CCCC(=O)OC(C)C[N+:10](C)(C)[H:20].Cc1ccc(-c2c[n:21]c(-c3ccc(C)cc3)o2)cc1 10=20;20,21=21",
"O=[N+]([O-])c1ccc2[nH]c(CCl)[n+:21]([H:20])c2c1.OC(=C1c2ccccc2-c2ccccc21)[O-:10]>>O=[N+]([O-])c1ccc2[nH]c(CCl)[n:21]c2c1.OC(=C1c2ccccc2-c2ccccc21)[O:10][H:20] 10=20;20,21=21",
"COCC[N+:21](C)(C)[H:20].COc1ccc([O-:10])c(Br)c1>>COCC[N:21](C)C.COc1ccc([O:10][H:20])c(Br)c1 10=20;20,21=21",
"CCC(CC)C1(CC)C(=O)NC(=S)[N:21]([H:20])C1=O.O=C(CI)[O-:10]>>CCC(CC)C1(CC)C(=O)NC(=S)[N-:21]C1=O.O=C(CI)[O:10][H:20] 10=20;20,21=21",
"OB(O)c1cccc([NH2+:21][H:20])c1.c1ccc(-c2ccc3n(cc[n:10]3)n2)cc1>>OB(O)c1cccc([NH2:21])c1.c1ccc(-c2ccc3n(cc[n+:10]3[H:20])n2)cc1 10=20;20,21=21",
"C1C[NH2+]CC[NH:10]CCN1.C[N+:21]1([H:20])C[C@H](C(=O)[O-])C[C@@H]2c3cccc4[nH]cc(c34)C[C@@H]21>>C1C[NH2+]CC[NH+:10]([H:20])CCN1.C[N:21]1C[C@H](C(=O)[O-])C[C@@H]2c3cccc4[nH]cc(c34)C[C@@H]21 10=20;20,21=21",
